US07906517B2
To toluene (5 ml) are added 2-fluoro-5-trifluoromethyl-benzaldehyde (650 mg) and dimethylamine hydrochloride (2.76 g), followed by addition of potassium carbonate (1.4 g), and the mixture is stirred at 120° C. overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=49:1→4:1) to give 2-dimethylamino-5-trifluoromethyl-benzaldehyde (529 mg). MS (m/z): 218 [M+H]+

reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-fluoro-5-trifluoromethyl-benzaldehyde | 650 mg | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | dimethylamine hydrochloride | 2.76 g | Cl.CNC
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-dimethylamino-5-trifluoromethyl-benzaldehyde | 529 mg | CN(C1=C(C=O)C=C(C=C1)C(F)(F)F)C | C10H10F3NO
